US07183270B2
1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-methyl-amino)cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one
A solution of 1-([(1S,2R,4R)-2-benzenesulfonylmethyl-4-isopropylamino-cyclohexyl)-4-(3-trifluoromethylphenyl)-5,6-dihydro-1H-pyridin-2-one (41 mg, 0.077 mmol) in methanol (1 mL) was treated with aqueous formaldehyde (37%, 0.029 mL, 0.383 mmol) and the mixture was stirred for 45 min. Sodium cyanoborohydride (7 mg, 0.115 mmol) was added, and the mixture stirred at room temperature for 2 h. Water was added and the mixture was extracted with ethyl acetate. The extracts were washed with brine, dried over sodium sulfate and concentrated under vacuum to provide the title product (42 mg) as a white glassy solid. MS found: (M+H)+=548.67.

reactant | [(1S,2R,4R)-2-benzenesulfonylmethyl-4-isopropylamino-cyclohexyl)-4-(3-trifluoromethylphenyl)-5,6-dihydro-1H-pyridin-2-one | 0.077 mmol, 41 mg | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)NC(C)C)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C28H33F3N2O3S
reactant | formaldehyde | 0.383 mmol, 0.029 mL | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.115 mmol, 7 mg | C(#N)[BH3-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-methyl-amino)cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one | 42 mg | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C29H35F3N2O3S
